US08648066B2
A mixture of methyl [6-(2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl)-1H-imidazo[4,5-b]pyridin-2-yl]carbamate hydrochloride (84 mg, 0.23 mmol, (7S)-4-chloro-7-ethyl-5,6,7,8-tetrahydroquinazoline (reagent preparation 3) (35 mg, 0.18 mmol) and N,N-diisopropylethylamine (0.15 mL, 0.90 mmol) in N-methyl-2-pyrrolidone (2.0 mL) was reacted in a microwave apparatus (250 W) for 5 min. at 110° C. After cooling to room temperature the reaction mixture was diluted with methanol (2 mL) and purified by preparative reverse phase HPLC (0.1% aqueous ammonium acetate-acetonitrile) to give 6-{4-[(7S)-7-ethyl-5,6,7,8-tetrahydroquinazolin-4-yl]-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl}-1H-imidazo[4,5-b]pyridin-2-amine. 1H NMR (400 MHz, Methanol-d4): 8.33 (s, 1H), 8.13 (brs, 1H), 7.63 (s, 1H), 7.50 (brs, 1H), 7.31 (d, 1H), 7.04 (d, 1H), 4.75 (b, 2H), 4.44 (m, 1H), 4.24 (m, 1H), 3.99 to 3.86 (m, 2H), 2.94 to 2.86 (m, 2H), 2.60 (m, 1H), 2.28 (m, 1H), 1.97 (m, 1H), 1.75 (m, 1H), 1.36 (m, 2H), 1.14 (m, 1H), 0.97 (t, 3H); MS (EI) for C25H27N7O: 442 (MH+).

reactant | methyl [6-(2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl)-1H-imidazo[4,5-b]pyridin-2-yl]carbamate hydrochloride | Cl.O1CCNCC2=C1C=CC(=C2)C=2C=C1C(=NC2)N=C(N1)NC(OC)=O
reactant | (7S)-4-chloro-7-ethyl-5,6,7,8-tetrahydroquinazoline | 0.18 mmol, 35 mg | ClC1=NC=NC=2C[C@H](CCC12)CC | C10H13ClN2
reactant | N,N-diisopropylethylamine | 0.90 mmol, 0.15 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N-methyl-2-pyrrolidone | 2.0 mL | CN1C(CCC1)=O | C5H9NO
solvent | methanol | 2 mL | CO | CH4O
product | 6-{4-[(7S)-7-ethyl-5,6,7,8-tetrahydroquinazolin-4-yl]-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl}-1H-imidazo[4,5-b]pyridin-2-amine | C(C)[C@H]1CCC=2C(=NC=NC2C1)N1CCOC2=C(C1)C=C(C=C2)C=2C=C1C(=NC2)N=C(N1)N | C25H27N7O
